US08067362B2
Step 7: 4-(14-tert-Butoxycarbonyl-tetradecyloxy)isophthalic acid 3-tert-butyl ester 1-(2,5-dioxo pyrrolidin-1-yl)ester
4-(14-tert-Butoxycarbonyl tetradecyloxy)isophthalic acid 3-tert-butyl ester (0.15 g, 0.28 mmol) was dissolved in THF (2 ml). DIEA (58 μl, 0.34 mmol) was added, and the solution was cooled to 0° C. TSTU (0.10 g, 0.28 mmol) was added. The reaction was stirred at 0° C. for 30 min and then at rt for 16 h. The sample was concentrated under vacuum to near dryness. AcOEt (20 ml) was added and the solution was washed with 0.2 N HCl and sat. NaHCO3 (3×5 ml each), dried over MgSO4 and concentrated to yield a residue (0.18 g). The residue was purified by flash chromatography (silica: AcOEt/heptane 3:7 (0.5 l), 1:1 (0.2 l)) yielding an oil with white solids (55 mg, 31%).

reactant | 4-(14-tert-Butoxycarbonyl tetradecyloxy)isophthalic acid 3-tert-butyl ester | 0.28 mmol, 0.15 g | C(C)(C)(C)OC(C=1C=C(C(=O)O)C=CC1OCCCCCCCCCCCCCCC(=O)OC(C)(C)C)=O | C31H50O7
reactant | DIEA | 0.34 mmol, 58 μl | CCN(C(C)C)C(C)C | C8H19N
reactant | TSTU | 0.28 mmol, 0.10 g | [B-](F)(F)(F)F.CN(C)C(=[N+](C)C)ON1C(=O)CCC1=O
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | 4-(14-tert-Butoxycarbonyl-tetradecyloxy)isophthalic acid 3-tert-butyl ester 1-(2,5-dioxo pyrrolidin-1-yl)ester | 0.18 g | O=C1N(C(CC1)=O)OC(C1=CC(C(=O)OC(C)(C)C)=C(C=C1)OCCCCCCCCCCCCCCC(=O)OC(C)(C)C)=O | C35H53NO9
